US08975436B2
Preparation of 4-(N-methylperfluorobutanesulfonamidomethyl)-4′-mercaptomethylbiphenyl
A mixture of 10.5 g (0.02 mol) of 4-(N-methylperfluorobutanesulfonamidomethyl)-4′-chloromethylbiphenyl, and 1.90 g (0.024 mol) thiourea in 100 mL methyl ethyl ketone was stirred and heated at reflux. The initial solution became cloudy and by 1 hr a white precipitate formed. The mixture was heated for 17 hr, cooled, and filtered. The product (8.2 g) was heated in 150 mL boiling ethanol under N2 and treated with 8 g (0.1 mol) 50% NaOH and heated for 20 hr. The resulting hazy solution was cooled, treated with 20 mL 10% HCl, and poured into 200 mL water to give a white solid. This was taken up in methylene chloride, dried over MgSO4, and stripped to 7.0 g of the desired product.

reactant | 4-(N-methylperfluorobutanesulfonamidomethyl)-4′-chloromethylbiphenyl | 0.02 mol, 10.5 g | CN(S(=O)(=O)C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)C(C1=CC=C(C=C1)C1=CC=C(C=C1)CCl)(F)F | C19H13ClF11NO2S
reactant | thiourea | 0.024 mol, 1.90 g | NC(=S)N | CH4N2S
reactant | NaOH | 0.1 mol, 8 g | [OH-].[Na+]
reactant | HCl | 20 mL | Cl | ClH
solvent | methyl ethyl ketone | 100 mL | C(C)C(=O)C | C4H8O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | water | 200 mL | O | H2O
product | 4-(N-methylperfluorobutanesulfonamidomethyl)-4′-mercaptomethylbiphenyl | CN(S(=O)(=O)C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)C(C1=CC=C(C=C1)C1=CC=C(C=C1)CS)(F)F | C19H14F11NO2S2
